US04469634
Into 10 ml of hexamethylphosphorus triamide was dissolved 784 mg (4 mmol) of 6-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine and 840 mg (12 mmol) of sodium thiomethoxide. The reaction was heated to 125° for 4 hours, cooled to ice-bath temperature and 968 mg (18 mmol) of allyl bromide was added in one portion. The mixture was warmed to room temperature and stirred overnight. It was poured into 75 ml of brine and extracted with three 75 ml portions of ether. The combined extracts were washed with three 50 ml portions of water, dried over magnesium sulfate and treated with excess ethereal hydrogen chloride. The solvent was reduced to 10 ml and decanted from an insoluble oil. The oil was triturated with 10 ml ether which was removed and discarded. The residue was taken up in hot ethanol, diluted with ether and allowed to crystallize. The precipitate was removed and recrystallized from acetonitrile to give 6-allylthio-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride, as white crystals, m.p. 158°-160°.

reactant | hexamethylphosphorus triamide | 10 ml | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | 6-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine | 4 mmol, 784 mg | ClC1=CC=CC=2CCN(CCC21)C | C11H14ClN
reactant | sodium thiomethoxide | 12 mmol, 840 mg | C[S-].[Na+]
reactant | allyl bromide | 18 mmol, 968 mg | C(C=C)Br | C3H5Br
solvent | brine | 75 ml | [Cl-].[Na+].O
product | 6-allylthio-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.C(C=C)SC1=CC=CC=2CCN(CCC21)C | InChI=1S/C14H19NS.ClH/c1-3-11-16-14-6-4-5-12-7-9-15(2)10-8-13(12)14;/h3-6H,1,7-11H2,2H3;1H
